* Schematics Netlist *



X_Und1A         Q_0 Q_1 $N_0001 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_Und2A         Q_2 $N_0001 $N_0002 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_Oder2A         $N_0001 Q_3 $N_0003 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_Oder1A         $N_0004 $N_0005 $N_0006 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
V_V5         $N_0007 0 5V
X_D2A         Q_2 $N_0008 $G_DPWR $G_DGND 7405 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_D1A         Q_3 $N_0009 $G_DPWR $G_DGND 7405 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_D3A         Q_1 $N_0010 $G_DPWR $G_DGND 7405 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U20         $N_0016 $N_0007 0 
+ $N_0011 $N_0012 $N_0013 $N_0014 $N_0009 $N_0008 $N_0010 $N_0015 $G_DPWR
+  $G_DGND DAC8break 
+PARAMS: MNTYMXDLY=0 IO_LEVEL=0
X_D4A         Q_0 $N_0015 $G_DPWR $G_DGND 7405 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
R_R16         $N_0016 OUT  16  
R_R17         $N_0016 OUT  16  
X_Q0_A         $N_0018 $D_HI $D_HI $N_0006 $D_HI Q_0 $N_0021 $G_DPWR $G_DGND
+  7476 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_Q1_A         $N_0018 $D_HI $D_HI Q_0 Q_0 Q_1 $N_0022 $G_DPWR $G_DGND 7476
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_Q2_A         $N_0018 $D_HI $D_HI $N_0001 $N_0003 Q_2 $N_0005 $G_DPWR $G_DGND
+  7476 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_Q3_A         $N_0018 $D_HI $D_HI $N_0002 Q_2 Q_3 $N_0004 $G_DPWR $G_DGND 7476
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
R_R18         OUT 0  680  
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND $N_0018 IO_STM IO_LEVEL=0 
+ 0 0
+ +5uS 1
+REPEAT FOREVER
+ +5uS 0
+  +5uS 1
+ ENDREPEAT
